US05218124
C. α-Methyl-4'-(hydroxy)[1,1'-biphenyl]-4-acetic acid, ethyl ester
A mixture of α-methyl-4'-(hydroxy)[1,1'-biphenyl]-4-acetic acid (22.0 g, 90.8 mmol) in ethanol (500 mL) and concentrated sulfuric acid (5.0 mL) is refluxed for 30 hours. The solution is concentrated under reduced pressure, is diluted with water (300 mL) and is extracted with ethyl acetate (3×300 mL). The combined ethyl acetate extract is washed with water (400 mL) and brine (400 mL), dried over MgSO4 and is concentrated under reduced pressure to give 20 g of crude product. Purification of this material by column chromatography (25% ethyl acetate in hexane) followed by crystallization from ethyl acetate and hexane gives 18.0 g (73.5%) of crystalline product, m.p. 124°-125° C., MS(CI+ m/z): 271[M+H]+.

reactant | α-methyl-4'-(hydroxy)[1,1'-biphenyl]-4-acetic acid | 90.8 mmol, 22.0 g | CC(C(=O)O)C1=CC=C(C=C1)C1=CC=C(C=C1)O | C15H14O3
reactant | ethanol | 500 mL | C(C)O | C2H6O
solvent | sulfuric acid | 5.0 mL | S(O)(O)(=O)=O | H2O4S
product | α-Methyl-4'-(hydroxy)[1,1'-biphenyl]-4-acetic acid, ethyl ester | 18.0 g, 73.5% | CC(C(=O)OCC)C1=CC=C(C=C1)C1=CC=C(C=C1)O | C17H18O3
